US08703758B2
A) tert-butyl [(1S)-2-({1-[6-(cyclobutylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate
To a solution of tert-butyl [(1S)-2-{[1-(6-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate (200 mg) in DMF (5 mL) were added potassium carbonate (210 mg) and (iodomethyl)cyclobutane (150 mg), and the mixture was stirred at room temperature for 15 hr. Potassium carbonate (210 mg) and (iodomethyl)cyclobutane (150 mg) were added to the reaction mixture, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (130 mg).

reactant | tert-butyl [(1S)-2-{[1-(6-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate | 200 mg | OC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C20H29N3O5
reactant | potassium carbonate | 210 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (iodomethyl)cyclobutane | 150 mg | ICC1CCC1 | C5H9I
reactant | Potassium carbonate | 210 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (iodomethyl)cyclobutane | 150 mg | ICC1CCC1 | C5H9I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl [(1S)-2-({1-[6-(cyclobutylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate | 130 mg | C1(CCC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C25H37N3O5
